US03973038
2,6-Dibromo-4-aminophenol (0.6 g.) was dissolved in acetone (30 ml.) to which was added pyridine (0.32 ml.). Then dropwise and with stirring the solution was added to an acetone solution (10 ml.) containing acetylsalicyloyl chloride which was prepared from acetylsalicylic acid (0.38 g.). Then the reactant solution was evaporated to dryness under reduced pressure to give a residue which was dissolved in ethyl acetate. After washing first with water and then with 1 N hydrochloric acid, the solution was evaporated under reduced pressure to remove ethyl acetate. The residues were redissolved in a mixture of methanol and 2 N sodium hydroxide (10 ml. each). Stirring this solution for several hours and acidifying with 2 N hydrochloric acid precipitated the product which was recrystallized from aqueous methanol to give light brown crystals of 3',5'-dibromo-2,4'-dihydroxybenzanilide (0.88 g.). Yield: 78%. The compound melts at 182°-187° C.

reactant | 2,6-Dibromo-4-aminophenol | 0.6 g | BrC1=C(C(=CC(=C1)N)Br)O | C6H5Br2NO
reactant | pyridine | 0.32 ml | N1=CC=CC=C1 | C5H5N
reactant | acetylsalicyloyl chloride | C(C)(=O)OC=1C(C(=O)Cl)=CC=CC1 | C9H7ClO3
reactant | acetylsalicylic acid | 0.38 g | C(C)(=O)OC=1C(C(=O)O)=CC=CC1 | C9H8O4
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 3',5'-dibromo-2,4'-dihydroxybenzanilide | 0.88 g, Yield: 78% | BrC=1C=C(NC(C2=C(C=CC=C2)O)=O)C=C(C1O)Br | C13H9Br2NO3
